US08937092B2
20% Pd/C (1.2 g) and di-tert-butyl dicarbonate (12.89 mL, 57.97 mmol) were added to a solution of ethyl 2-(4-cyanophenyl)propanoate (6.0 g, 28.98 mmol) in ethanol (60 mL) and hydrogenated at 60 psi at room temperature for 18 h. Reaction mixture was filtered through celite, washed with methanol (100 mL) and concentrated to give ethyl 2-(4-((tert-butoxycarbonylamino)methyl)phenyl)propanoate (6.0 g, 67%) as off white solid.

reactant | di-tert-butyl dicarbonate | 57.97 mmol, 12.89 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl 2-(4-cyanophenyl)propanoate | 28.98 mmol, 6.0 g | C(#N)C1=CC=C(C=C1)C(C(=O)OCC)C | C12H13NO2
solvent | ethanol | 60 mL | C(C)O | C2H6O
catalyst | Pd/C | 1.2 g | [Pd] | Pd
product | ethyl 2-(4-((tert-butoxycarbonylamino)methyl)phenyl)propanoate | 6.0 g, 67% | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)C(C(=O)OCC)C | C17H25NO4
